US05576343
28.0 g of 5-bromo-2-methylbenzothiazole was dissolved in 200 ml of N-methyl-2-pyrrolidone, the solution thus prepared was mixed with 13.8 g of cuprous cyanide and a catalytically effective amount of copper sulfate, and the mixture was stirred for 4 hours with heating at a temperature of 180° to 190° C. in a stream of nitrogen. The resulting reaction solution was poured into water, and insoluble materials thus formed were collected by filtration. The thus collected insoluble materials were mixed with a mixture consisting of 22 ml of ethylenediamine and 50 ml of water, and the resulting mixture was stirred thoroughly. After extraction with benzene, the resulting organic layer was washed with water, and dried to distill of benzene. Thereafter, the residue thus formed was washed with ethanol to obtain 10.22 g of 2-methyl-5-benzothiazolecarbonitrile in the form of light brown crystals.

reactant | 5-bromo-2-methylbenzothiazole | 28.0 g | BrC=1C=CC2=C(N=C(S2)C)C1 | C8H6BrNS
reactant | water | O | H2O
reactant | N-methyl-2-pyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-methyl-5-benzothiazolecarbonitrile | 10.22 g | CC=1SC2=C(N1)C=C(C=C2)C#N | C9H6N2S
